US05728879
To 150 ml of chlorobenzene, 100.1 g (0.75 mol) of aluminum chloride was added, and further 143 g (0.75 mol) of p-toluenesulfonyl chloride was added dropwise over 1 hour. After stirred for 3 hours at 55° C., the reaction mixture was poured into 1.5 liter of water, and then the obtained crystal was filtered off and washed with n-hexane to obtain 140 g of the intended 4-methyl-4'-chlorodiphenylsulfone. NMR (heavy chloroform): δ7.9-7.8 (m, 4H), 7.5 (m, 2H), 7.3 (d, 2H), 2.4 (s, 3H).

reactant | chlorobenzene | 150 ml | ClC1=CC=CC=C1 | C6H5Cl
reactant | aluminum chloride | 0.75 mol, 100.1 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | p-toluenesulfonyl chloride | 0.75 mol, 143 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | water | 1.5 liter | O | H2O
product | 4-methyl-4'-chlorodiphenylsulfone | 140 g | CC1=CC=C(C=C1)S(=O)(=O)C2=CC=C(C=C2)Cl | C13H11ClO2S
